US03931168
1-Cinnamamidohydantoin
To a pyridine solution (500 ml) of 1-aminohydantoin hydrochloride (50 g, 0.3 mole) was added cinnamoyl chloride (53 g, 0.3 mole). The stirred mixture was heated on the steam bath for 5 hours, then poured into ice water. After standing overnight, the precipitated product was removed by filtration and washed thoroughly with water. After drying, the crude white product weighed 60 g (74%). Several recrystallizations from methanol provided analytical material which melted at 276°-278°.

reactant | 1-aminohydantoin hydrochloride | 0.3 mole, 50 g | Cl.NN1C(=O)NC(=O)C1
reactant | cinnamoyl chloride | 0.3 mole, 53 g | C(C=CC1=CC=CC=C1)(=O)Cl | C9H7ClO
solvent | pyridine | 500 ml | N1=CC=CC=C1 | C5H5N
product | 1-Cinnamamidohydantoin | C(C=CC1=CC=CC=C1)(=O)NN1C(=O)NC(=O)C1 | C12H11N3O3
